US05780482
2-Chloro-5-nitropyridine (4.48 g) was added in portions to a mixture of sodium phenoxide trihydrate (4.80 g) in DMF (140 ml) with stirring at ambient temperature under nitrogen. The mixture was then heated at 60° C. for 2 hours and then at 90° C. for 3 hours. The mixture was allowed to cool over 18 hours. The mixture was poured into ice water and extracted with dichloromethane to give a residue which was stirred in petroleum ether, b.p. 60°-80° C. at ambient temperature for 30 minutes and then filtered to give 5-nitro-2-phenoxypyridine, m.p. 84°-86° C.

reactant | 2-Chloro-5-nitropyridine | 4.48 g | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | sodium phenoxide trihydrate | 4.80 g | O.O.O.[O-]C1=CC=CC=C1.[Na+]
solvent | DMF | 140 ml | CN(C)C=O | C3H7NO
product | 5-nitro-2-phenoxypyridine | [N+](=O)([O-])C=1C=CC(=NC1)OC1=CC=CC=C1 | C11H8N2O3
